US06583133B1
To a stirred suspension of 122 mg of (E)-(6R,7R)-3-[3-[(3-amino-propyl)-dimethyl-ammonio]-propenyl-7-[2-(naphthalen-2-ylsulfanyl)-acetylamino]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid chloride monohydrochloride in 2 ml of dimethylsulfoxide was added 60 mg of 1H-1,2,4-triazole-1-carboximidamide monohydrochloride followed by 0.05 ml of tetramethylguanidine. The mixture was stirred for 2 h at 20° and then subjected to chromatographic purification on MCI gel CHP20P using a gradient of 0-30% aqueous acetonitrile for elution. The product-containing fractions were concentrated in vacuo and freeze-dried, and the remaining amorphous material was triturated with 10 ml of a 0.4 N solution of hydrochloric acid in diethyl ether. The white solid was isolated by filtration, washed with 20 ml of diethyl ether and dried to give 48 mg of (E)-(6R,7R)-3-[3-[(3-guanidino-propyl)-dimethyl-ammonio]-propenyl]-7-[2-(naphthalen-2-ylsulfanyl)-acetylamino]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid chloride monohydrochloride as a white solid.

reactant | 3-[(3-amino-propyl)-dimethyl-ammonio]-propenyl-7-[2-(naphthalen-2-ylsulfanyl)-acetylamino]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid chloride monohydrochloride | Cl.NCCC[N+](CC=CC1=C(N2C(C(C2SC1)NC(CSC1=CC2=CC=CC=C2C=C1)=O)=O)C(=O)Cl)(C)C
reactant | 1H-1,2,4-triazole-1-carboximidamide monohydrochloride | 60 mg | Cl.N1(N=CN=C1)C(N)=N
reactant | tetramethylguanidine | 0.05 ml | CN(C(N(C)C)=N)C | C5H13N3
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | (E)-(6R,7R)-3-[3-[(3-guanidino-propyl)-dimethyl-ammonio]-propenyl]-7-[2-(naphthalen-2-ylsulfanyl)-acetylamino]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid chloride monohydrochloride | 48 mg | Cl.N(C(=N)N)CCC[N+](C/C=C/C1=C(N2C([C@H]([C@H]2SC1)NC(CSC1=CC2=CC=CC=C2C=C1)=O)=O)C(=O)Cl)(C)C | InChI=1S/C28H33ClN6O3S2.ClH/c1-35(2,14-6-12-32-28(30)31)13-5-9-20-16-40-27-23(26(38)34(27)24(20)25(29)37)33-22(36)17-39-21-11-10-18-7-3-4-8-19(18)15-21;/h3-5,7-11,15,23,27H,6,12-14,16-17H2,1-2H3,(H4-,30,31,32,33,36);1H/p+1/b9-5+;/t23-,27-;/m1./s1
